US07625922B2
1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)-3,5-difluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (CJS 3406)
Method H3 was used with 4-(4-amino-2,6-difluorophenoxy)-3-nitropyridin-2-amine (0.20 g, 0.709 mmol) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (0.16 g, 0.709 mmol) to afford the title compound (0.085 g, 24%). 1H NMR (250 MHz, 6, ppm, DMSO-d6): 6.11 (d, 1H, J=5.7 Hz), 7.28 (s, 2H), 7.46 (d, 2H, J=10.3 Hz), 7.61-7.71 (m, 2H), 8.04 (d, 1H, J=5.7 Hz), 8.09 (d, 1H, J=2.1 Hz), 9.36 (s, 1H), 9.40 (s, 1H). m/z 504.0 [(M+H)+ calcd. for C19H11ClF5N5O4 503.0].

reactant | 4-(4-amino-2,6-difluorophenoxy)-3-nitropyridin-2-amine | 0.709 mmol, 0.20 g | NC1=CC(=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C(=C1)F)F | C11H8F2N4O3
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 0.709 mmol, 0.16 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)-3,5-difluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.085 g, 24% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=C(C=C(C=C1F)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C19H11ClF5N5O4
